US09063126B2
2-methyl-5-vinylpyrimidine
A solution of potassium vinyltrifluoroborate (666 mg, 4.97 mmol; Aldrich), palladium(II) chloride (18 mg, 0.099 mmol; Aldrich), triphenylphosphine (78 mg, 0.298 mmol; Aldrich), cesium carbonate (4.86 g, 14.91 mmol; Aldrich), and 2-methyl-5-bromopyrimidine (867 mg, 4.97 mmol; AniChem) in tetrahydrofuran/H2O (9:1; 10 mL) was heated at 85° C. under a nitrogen atmosphere for 24 hours. The reaction mixture was cooled to room temperature, diluted with water (15 mL), and extracted with dichloromethane (2×25 mL). The combined organic extracts were dried over MgSO4, filtered, concentrated, and the crude material was purified by flash chromatography (silica gel, 5-60% ethyl acetate in hexanes) to afford the title compound: 1H NMR (300 MHz, CDCl3) δ ppm 2.73 (s, 3H), 5.44 (d, J=11.10 Hz, 1H), 5.86 (d, J=17.85 Hz, 1H), 6.63 (dd, J=17.85, 11.10 Hz, 1H), 8.66 (s, 2H); MS (DCI/NH3) m/z 121 (M+H)+, 138 (M+NH4)+.

reactant | potassium vinyltrifluoroborate | 4.97 mmol, 666 mg | C(=C)[B-](F)(F)F.[K+]
reactant | triphenylphosphine | 0.298 mmol, 78 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cesium carbonate | 14.91 mmol, 4.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methyl-5-bromopyrimidine | 4.97 mmol, 867 mg | CC1=NC=C(C=N1)Br | C5H5BrN2
solvent | tetrahydrofuran H2O | 10 mL | O1CCCC1.O
solvent | water | 15 mL | O | H2O
catalyst | palladium(II) chloride | 0.099 mmol, 18 mg | [Pd](Cl)Cl
product | 2-methyl-5-vinylpyrimidine | CC1=NC=C(C=N1)C=C | C7H8N2
